US04429167
To a solution of ethyl 4-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-oxopentanoate (175 mg, 0.44 mmol) in 5 ml of absolute ethanol at 0° is added sodium borohydride (32 mg, 0.84 mmol). The mixture is stirred for 15 minutes, after which it is poured into water and methylene chloride. The aqueous phase is separated and back-extracted with methylene chloride. The combined solvent extracts are washed with brine and dried. Solvent is removed by rotoevaporation, and the residue is purified by prep. thin layer chromatography (silica gel, 25% ethyl acetate/hexane) to yield ethyl 4-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-hydroxypentanoate.

reactant | ethyl 4-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-oxopentanoate | 0.44 mmol, 175 mg | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(CC(=O)OCC)=O)C)C=C1)(F)F | C19H18F3NO5
reactant | sodium borohydride | 0.84 mmol, 32 mg | [BH4-].[Na+]
reactant | water | O | H2O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | ethyl 4-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-hydroxypentanoate | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(CC(=O)OCC)O)C)C=C1)(F)F | C19H20F3NO5
